US06218538B1
3-Phenylpropyl 2-(2-furyl)-4-(4-methyl-3-nitrophenyl)-6[(2-(1-piperidinyl)ethoxy)methyl]-1,4-dihydropyrimidine-5-carboxylate
A mixture of 3-phenylpropyl 4-(2-(1-piperidinyl)ethoxy)acetoacetate (10.0 g, 28.78 mmol), 4-methyl-3-nitrobenzaldehyde (4.75 g, 28.78 mmol), 2-amidinofuran hydrochloride (4.20 g, 28.78 mmol), morpholine (3.75 ml, 43.17 mmol), acetic acid (3.29 ml, 57.56 mmol), and sodium sulfate (8.17 g, 57.56 mmol) was stirred in ethanol (50 ml) for 1 hour at room temperature and then heated to 50° C. for 7 days. The ethanol was removed in vacuo and ethyl acetate was added to the residue. The mixture was filtered and the filtrate was washed with water, sodium hydrogen carbonate solution and brine, dried and evaporated to yield an oil. The oil was further purified by flash chromatography and RP-HPLC (twice) to give the title compound (150 mg) as an oil. Electrospray MS m/z 587 [M+H]+.

reactant | 3-phenylpropyl 4-(2-(1-piperidinyl)ethoxy)acetoacetate | 28.78 mmol, 10.0 g | N1(CCCCC1)CCOCC(CC(=O)OCCCC1=CC=CC=C1)=O | C20H29NO4
reactant | 4-methyl-3-nitrobenzaldehyde | 28.78 mmol, 4.75 g | CC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C8H7NO3
reactant | 2-amidinofuran hydrochloride | 28.78 mmol, 4.20 g | Cl.C(N)(=N)C=1OC=CC1
reactant | morpholine | 43.17 mmol, 3.75 ml | N1CCOCC1 | C4H9NO
reactant | acetic acid | 57.56 mmol, 3.29 ml | C(C)(=O)O | C2H4O2
reactant | sodium sulfate | 57.56 mmol, 8.17 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-Phenylpropyl 2-(2-furyl)-4-(4-methyl-3-nitrophenyl)-6[(2-(1-piperidinyl)ethoxy)methyl]-1,4-dihydropyrimidine-5-carboxylate | 150 mg | O1C(=CC=C1)C=1NC(=C(C(N1)C1=CC(=C(C=C1)C)[N+](=O)[O-])C(=O)OCCCC1=CC=CC=C1)COCCN1CCCCC1 | C33H38N4O6
